US08067417B2
4-((R)-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-ylamino)-3-chlorobenzoic acid (I-3) (27 mg) was dissolved in DMF (0.4 ml) and treated with carbonyl diimidazole (12 mg, 0.077 mmol) and the mixture stirred at RT for 90 min. The solution was cooled in an ice bath and methylamine gas bubbled in for 2 min. The mixture was stirred at RT for 2 hours, evaporated under reduced pressure and purified by chromatography to give 4-((R)-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-ylamino)-3-chloro-N-methylbenzamide (15 mg) as a colourless solid.

reactant | 4-((R)-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-ylamino)-3-chlorobenzoic acid | 27 mg | C1(CCCC1)N1[C@@H](C=2N(C=3C=NC(=NC13)NC1=C(C=C(C(=O)O)C=C1)Cl)C=NN2)CC | C21H22ClN7O2
reactant | carbonyl diimidazole | 0.077 mmol, 12 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | DMF | 0.4 ml | CN(C)C=O | C3H7NO
product | 4-((R)-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-ylamino)-3-chloro-N-methylbenzamide | 15 mg | C1(CCCC1)N1[C@@H](C=2N(C=3C=NC(=NC13)NC1=C(C=C(C(=O)NC)C=C1)Cl)C=NN2)CC | C22H25ClN8O
